US08293708B2
Hydrazine hydrate (1.0 ml, 20 mmol) was added to a solution of 2-(4-(tert-butoxycarbonylaminoxy)butyl)isoindole-1,3-dione (2.08 g, 6.22 mmol) in ethanol (8.0 ml). The reaction mixture was stirred at 80° C. for 65 h. The solvent was removed in vacuo. The residue was dissolved in toluene (10 ml) and the solvent was removed in vacuo. The residue was suspended in 1 N hydrochloric acid (10 ml). The precipitation was removed by filtration and was washed with water (2 ml). The filtrate and the wash-liquids were combined and made basic with potassium carbonate. The solution was extracted with dichloromethane (4×20 ml). The organic layer was dried over magnesium sulphate. The solvent was removed in vacuo to give 0.39 g of N-(4-aminobutoxy)carbamic acid tert-butyl ester. Potassium carbonate (3 g) was added to the aqueous phase, which was extracted with dichloromethane (3×20 ml). These combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo to give another 0.39 g of N-(4-aminobutoxy)carbamic acid tert-butyl ester.

reactant | Hydrazine hydrate | 20 mmol, 1.0 ml | O.NN
reactant | 2-(4-(tert-butoxycarbonylaminoxy)butyl)isoindole-1,3-dione | 6.22 mmol, 2.08 g | C(C)(C)(C)OC(=O)NOCCCCN1C(C2=CC=CC=C2C1=O)=O | C17H22N2O5
solvent | ethanol | 8.0 ml | C(C)O | C2H6O
product | N-(4-aminobutoxy)carbamic acid tert-butyl ester | 0.39 g | C(C)(C)(C)OC(NOCCCCN)=O | C9H20N2O3
